US04845242
Methyl 2-carboxy-4-nitrophenyl acetate was prepared from 2-carboxy-4-nitrophenylacetate and methanol by the procedure described above. Hydrogenation of this nitro compound gives methyl 4-amino-2-carboxyphenylacetate (yield 90%). The guanidination of the amino compound with 3,5-dimethylpyrazole-1-carboxamidine nitrate (ADMP) was performed by a standard method described previously (Tsunematsu & Makismi, J. Biochem. 88, pp 1773-1783, (1980)). 2.2 g of amino compound (10 mmole), 1.9 g of triethylamine (19 mmole) and 3.0 g of ADMP (15 mmole) was heated in 20 ml of THF and refluxed for 18 hrs. The white precipitate was filtered and washed with cold methanol to give 1.5 g of methyl 2-carboxy-4-guanidinophenylacetate, (yield 46%). One spot on TLC, Rf =0.6 (Butanol:acetic acid:pyridine:water=4:1:1:2), it shows an orange color when sprayed with Sakaguchi reagent. NMR spectrum (CF3COOH), δ 8.4, 7.7 (b, 4H), 6.6 (b, 4H) 4.4 (s, 2H), 4.1 (s, 3H). Anal. Calc. for C11H13N3O4.1/2H2O: C, 50.77; H, 5.42; N, 16.15. Found: C, 51.03; H, 5.38; N, 16.19. 0.9 g of methyl 2-carboxy-4-guanidinophenylacetate (3 mmole) was heated with 1.5 g of PCl5 (7.2 mmole) at 70°-80° C. for 2 hrs, white solid precipitated out during the heating. The solid was filtered off and purified by silica gel column chromatography with methylene chloride and methanol (5:1) as an eluent to give 0.5 g of 7-guanidino-3-methoxyisocoumarin (yield 59%). One spot on TLC, Rf =0.7 (Butanol:acetic acid: pyridine:water=4:1:1:2); m.p. 185°-186° C. (dec);, NMR spectrum (d6 -DMSO): δ 7.9, 7.6 (b, 3H), 7.7 (b, 4H), 6.1 (s, 1H), 3.9 (s, 3H); mass spectrum (FAB+), m/e=234 (M+ -Cl). Anal. Calc. for C11H12N3O3Cl1.1/2H2O: C, 47.40; H, 4.67; N, 15.08; Cl, 12.75. Found: C, 47.42; H, 4.74; N, 15.05; Cl, 12.68.

reactant | Butanol | C(CCC)O | C4H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methyl 2-carboxy-4-guanidinophenylacetate | 3 mmole, 0.9 g | C(=O)(O)C1=C(C=CC(=C1)NC(=N)N)CC(=O)OC | C11H13N3O4
reactant | PCl5 | 7.2 mmole, 1.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-guanidino-3-methoxyisocoumarin | 0.5 g, yield 59% | N(C(=N)N)C1=CC=C2C=C(OC(=O)C2=C1)OC | C11H11N3O3
